US08476261B2
50B) Preparation of 1-[1-(benzoylamino)cyclobutyl]-2-propanol
Methyl magnesium chloride (14.0 mL, 3M solution in THF) was added to a stirred solution of [1-(benzoylamino)cyclobutyl]acetaldehyde (2.82 g, 13.0 mmol) in THF (30 mL) at −0° C., and the mixture was stirred at room temperature for 5 hours. Saturated aqueous NH4Cl (10 mL) was added to the mixture 0° C., and the resulting mixture was extracted with ethyl acetate. The combined organic extracts were dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. Flash chromatography (hexane:AcOEt=2:1) of the residue gave the title compound as a colorless oil (2.65 g, 87%). 1H-NMR (400 MHz, CDCl3) δ 1.25 (3H, d, J=6.1 Hz), 1.77-2.12 (5H, m), 2.28-2.40 (1H, m), 2.52 (1H, q, J=10.4 Hz), 2.75-2.85 (1H, m), 3.26 (1H, d, J=3.7 Hz), 3.97-4.07 (1H, m), 6.91 (1H, brs), 7.39-7.46 (2H, m), 7.46-7.53 (1H, m), 7.75-7.82 (2H, m).

reactant | Methyl magnesium chloride | 3M, 14.0 mL | C[Mg]Cl
reactant | [1-(benzoylamino)cyclobutyl]acetaldehyde | 13.0 mmol, 2.82 g | C(C1=CC=CC=C1)(=O)NC1(CCC1)CC=O | C13H15NO2
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-[1-(benzoylamino)cyclobutyl]-2-propanol | 2.65 g, 87% | C(C1=CC=CC=C1)(=O)NC1(CCC1)CC(C)O | C14H19NO2
